US05258382
Preparation of 2-(2-trichloroacetylpyrrol-1-yl)malonic acid diethyl ester:
To a solution of 2-(pyrrol-1-yl)malonic acid diethyl ester (100.0 g) in chloroform (100 ml) was added trichloroacetyl chloride (161.4 g), and the resulting mixture was refluxed for 15 hours. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in ethyl acetate. The solution was washed with 10% aqueous sodium carbonate solution and then with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and evaporated under reduced pressure. The residue was recrystallized from isopropyl ether to give the title compound (146.4 g, 89.0%) as colorless crystals, mp 67°-69° C.

reactant | 2-(pyrrol-1-yl)malonic acid diethyl ester | 100.0 g | C(C)OC(C(C(=O)OCC)N1C=CC=C1)=O | C11H15NO4
reactant | trichloroacetyl chloride | 161.4 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-trichloroacetylpyrrol-1-yl)malonic acid diethyl ester | 146.4 g, 89.0% | C(C)OC(C(C(=O)OCC)N1C(=CC=C1)C(C(Cl)(Cl)Cl)=O)=O | C13H14Cl3NO5
